US04920120
1-Ethyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid
A mixture of 0.45 g (1.58 mmol) of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 0.54 g (6.27 mmol) of anhydrous piperazine, and 20 ml of acetonitrile was refluxed for three hours, then cooled to room temperature. The solids were filtered and washed with water, acetonitrile, and ether to give 0.48 g of the title compound, mp 223°-225° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 1.58 mmol, 0.45 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C13H10F3NO3
reactant | piperazine | 6.27 mmol, 0.54 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Ethyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.48 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCNCC1)F)C)=O)C(=O)O | C17H19F2N3O3
